US07781435B2
(S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-indan-1-yl-1H-imidazol-4-yl)-amide
1-(2,3-dihydro-1H-inden-1-yl)-4-nitro-1H-imidazole was reduced and coupled with (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) to afford the title compound: MS 453 m/z (M+1).

reactant | 1-(2,3-dihydro-1H-inden-1-yl)-4-nitro-1H-imidazole | C1(CCC2=CC=CC=C12)N1C=NC(=C1)[N+](=O)[O-] | C12H11N3O2
reactant | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)N[C@H](C(=O)O)CCC | C13H15F2NO3
product | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-indan-1-yl-1H-imidazol-4-yl)-amide | C1(CCC2=CC=CC=C12)N1C=NC(=C1)NC([C@H](CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C25H26F2N4O2
